US06518265B1
tert-Butyl 4-[2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate
A mixture of 4.46 g of tert-butyl 4-[2-(4-chloro-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate, 10.1 g of phenol and 1.80 g of potassium hydroxide was stirred at 120° C. for 7 hours. The reaction mixture was adjusted to pH 10 with 10% aqueous sodium hydroxide solution, and extracted with ethyl acetate. The extract was washed successively with 10% aqueous sodium hydroxide solution and saturated brine, and dried, and then the solvent was evaporated to give a brown liquid. The resulting brown liquid was purified by silica gel column chromatography using ethyl acetate as an eluting solvent to give 3.59 g of a colorless solid. Recrystallization from a mixture of ethyl acetate and n-hexane gave colorless crystals having the melting point of from 130.5 to 132.5° C.

reactant | tert-butyl 4-[2-(4-chloro-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate | 4.46 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCN(CC2)C(=O)OC(C)(C)C | C22H27ClN4O2
reactant | phenol | 10.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 1.80 g | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
product | tert-Butyl 4-[2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate | 3.59 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCN(CC2)C(=O)OC(C)(C)C | C28H32N4O3
